* Parameterized BVM clone for bvm-rloop-one-shot-tuning-v1.
* Topology is copied from the current canonical BVM source. Values are
* rendered from USER_CASE.env by scripts/try_candidate.py. The registered
* Stage-A perturbation was limited to optional parallel R-loop shunts, while
* the remaining canonical values stay visible for later authorized rounds.

.subckt BVM WL BL SE SL

* === WL+BL merge at Node '2' ===
R_BL    BL      1       20.0
L_PBL   1       2       0.5p
R_WL    WL      13      20.0
L_PWL   13      2       0.5p

* === S-loop ===
B_JM1   2       7       jjmit area=1.2
R_JM1 2 7 8
L_M1    7       0       12.5p

L_M2    2       3       24.5p
B_JM2   3       4       jjmit area=1.4
* RJM2 OPEN

L_M3    4       8       8.5p
L_PM    8       0       0.5p

* === R-loop upper branch ===
L_S1    4       5       0.5p
B_JS1   5       6       jjmit area=0.52
R_JS1_SHUNT 5 6 12

* === SE into N3 ===
R_SE    SE      14      20.0
L_PSE   14      6       0.5p

* === R-loop bridge network ===
R_S     6       10      3.0
L_S3    6       10      0.5p

* === R-loop lower branch ===
L_S2    8       9       0.5p
B_JS2   9       10      jjmit area=0.52
R_JS2_SHUNT 9 10 12

* === Output chain ===
L_PSL   10      11      0.5p
R_SL    11      12      12.0
L_SL    12      SL      0.4p

.ends BVM
